2181-11-07 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2181-11-6**] 05:23 PM..
   -passed BRBPR x2 small amount o/n
   -trying to climb out of bed, given haldol and then trazodone
   - Hct stable on q4h checks
   - s/p Foley removed at 2pm on [**11-6**], voided 300cc after 12 hour interval
   Colonoscopy;
   Red blood was seen from the rectum extending to the cecum. Scope could
   not be transversed past the cecum due to poor visualization in the
   setting of bleeding. Exact source of bleeding could not be visualized.
   Few diverticuli noted in the left colon.
   Impression:
   Blood in the colon
   Otherwise normal sigmoidoscopy to cecum
   Recommendations:
   If re-bleeds, will repeat EGD with banding. Will need repeat
   colonoscopy in the next few days.
   Endoscopy:
   Varices at the lower third of the esophagus
   No gastric varices noted.
   Otherwise normal EGD to third part of the duodenum
   Recommendations:
   Will plan on banding tommorow or earlier if pt rebleeds. Continue to
   monitor closely in ICU. Continue PPI and Octreotide.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2181-11-6**] 09:17 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2181-11-6**] 06:20 PM
   Midazolam (Versed) - [**2181-11-6**] 06:20 PM
   Haloperidol (Haldol) - [**2181-11-6**] 09:17 PM
   Pantoprazole (Protonix) - [**2181-11-6**] 09:38 PM
   Heparin Sodium (Prophylaxis) - [**2181-11-6**] 09:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-11-7**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 94 (83 - 100) bpm
   BP: 141/85(96) {116/54(70) - 146/105(112)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 71.6 kg
   Height: 65 Inch
             Total In:
                                                                    678 mL
                                                                    984 mL
   PO:
             TF:
   IVF:
                                                                    678 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    678 mL
                                                                    684 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: NAD, A&O x2, thinks she
s home and is about to go grocery
   shopping, but recognizes it
s snowing outside. Denies AP,
   lightheadedness, pain, SOB.
   Cv: RRR, no m/r/g
   Pulm: CTAB
   Abd: Distended, soft, NT, +BS
   Extr:.Cachectic, no edema.
   Labs / Radiology
   214 K/uL
   11.9 g/dL
   115 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   7 mg/dL
   111 mEq/L
   144 mEq/L
   37.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2181-11-2**]  04:01 AM
                             [**2181-11-2**]  02:09 PM
                             [**2181-11-2**]  07:23 PM
                             [**2181-11-2**]  08:53 PM
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
                             [**2181-11-3**]  11:35 AM
                             [**2181-11-4**]  06:07 AM
                             [**2181-11-6**]  07:32 PM
                             [**2181-11-7**]  01:45 AM
   WBC
   15.6
   15.4
   15.4
   12.2
   Hct
   38.0
   38.3
   37.1
   37.1
   Plt
   134
   151
   226
   214
   Cr
   0.7
   0.7
   0.7
   TCO2
   24
   24
   22
   24
   27
   25
   Glucose
   102
   159
   115
   Other labs: PT / PTT / INR:15.6/38.1/1.4, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:340 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57 y/o F w/ polysubstance abuse, active alcoholism, EtOH  cirrhosis,
   previously with UGIB at OSH s/p EGD showing grades I & II varices and
   clot overlying peptic ulcer with BRBPR.
   # BRBPR: Originally concerning for fast upper versus lower GI bleed. At
   the moment hemodynamically stable. Studies demonstrate LGIB present.
   Hct stable thus far with q4h checks. Continues with melena.
   - S/p crossmatch 6 units
   - Two peripheral IVs present, place IV consult to request another
   large-bore peripheral IV
   - Central line to be placed as needed
   - Octreotride drip cont
   - [**Hospital1 **] PPI IV
   - Q6-Q8 hour HCT check cont (stable Hct thus far); next mid-afternoon
   - f/u GI and hepatology recs (hepatology planning for variceal banding
   today, we believe)
   .
   # Altered Mental Status: Most likely etiology hepatic encephalopathy.
   - No clear infectious etiology
   - Hold rifaximin, lactulose given colonoscopy findings of bleed.
   - Fall precautions
   - Reorient frequently
   # ETOH cirrhosis:
   -- MVI, Folate, Thiamine supplements
   -- continue spironolactone.
   # Esophageal Varices:
   -- nadolol 20mg daily
   # Peptic Ulcer Disease- from chronic NSAID use.
   -- continue sucralfate
   -- contiue IV PPI [**Hospital1 **]
   # HTN- continue captopril, nadolol, amlodipine as long as continues to
   be hemodynamically stable.
   # FEN/GI- NPO; NS at 75cc/hour running for 2L now
 complete those 2L,
   then 500cc NS bolus over 3hours (given saw Hct [**Last Name (LF) 9768**], [**First Name3 (LF) **]
   hinting at patient being dry), GI PPX w/ PPI IV bid
   # CODE: FULL
   # PPX: heparin SC, venodynes, fall risk
   # Dispo; if PM Hct stable, consider return to [**Doctor Last Name 2572**]-[**Doctor Last Name **] (floor
   team), pending discussion with hepatology
   # Communication:
   *** CALL [**Doctor First Name **] 1st
   -Contact: HCP, [**Name (NI) 1028**] [**Name (NI) 9695**] (cousin who is a nurse), [**Telephone/Fax (1) 9675**]
   --------------------
   NEIGHBOURS:
   [**Doctor First Name 469**] (home) [**Telephone/Fax (1) 9676**]
   (cell) [**Telephone/Fax (1) 9677**]
   [**Male First Name (un) **] (home) [**Telephone/Fax (1) 9760**]
   =======================================
   son, [**Name (NI) **] [**Name (NI) **] (HCP as [**First Name8 (NamePattern2) 24**] [**Name (NI) 469**])
   cell [**Telephone/Fax (1) 9761**]
   home [**Telephone/Fax (1) 9673**]
   daughter, [**Name (NI) **] (is sick) her husband [**Name (NI) 322**] [**Name (NI) 9762**] cell [**Telephone/Fax (1) 9763**]
   ICU Care
   Lines:
   22 Gauge - [**2181-11-6**] 04:50 PM
   18 Gauge - [**2181-11-6**] 05:02 PM

2181-11-07 10:16:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   2 episodes of BRBPR overnight
   24 Hour Events:
 ENDOSCOPY - At [**2181-11-6**] 05:23 PM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2181-11-6**] 09:17 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2181-11-6**] 06:20 PM
   Midazolam (Versed) - [**2181-11-6**] 06:20 PM
   Haloperidol (Haldol) - [**2181-11-6**] 09:17 PM
   Pantoprazole (Protonix) - [**2181-11-6**] 09:38 PM
   Heparin Sodium (Prophylaxis) - [**2181-11-6**] 09:38 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-11-7**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 87 (83 - 100) bpm
   BP: 157/73(93) {116/54(70) - 157/133(138)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 71.6 kg
   Height: 65 Inch
             Total In:
                                                                    678 mL
                                                                  1,189 mL
   PO:
             TF:
   IVF:
                                                                    678 mL
                                                                  1,189 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    678 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mildly confused
   Labs / Radiology
   11.9 g/dL
   214 K/uL
   115 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   7 mg/dL
   111 mEq/L
   144 mEq/L
   42.8 %
   12.2 K/uL
        [image002.jpg]
                             [**2181-11-2**]  02:09 PM
                             [**2181-11-2**]  07:23 PM
                             [**2181-11-2**]  08:53 PM
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
                             [**2181-11-3**]  11:35 AM
                             [**2181-11-4**]  06:07 AM
                             [**2181-11-6**]  07:32 PM
                             [**2181-11-7**]  01:45 AM
                             [**2181-11-7**]  09:11 AM
   WBC
   15.6
   15.4
   15.4
   12.2
   Hct
   38.0
   38.3
   37.1
   37.1
   42.8
   Plt
   134
   151
   226
   214
   Cr
   0.7
   0.7
   0.7
   TCO2
   24
   22
   24
   27
   25
   Glucose
   102
   159
   115
   Other labs: PT / PTT / INR:15.6/38.1/1.4, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:340 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57 yo woman with ETOH cirrhosis initially admitted with an upper GI
   Bleed requirement large volume pRBC resuscitation and intubation.  She
   was transferred to the medical floor on [**11-4**], now back in ICU with
   suspected lower GI bleed.
   -Had varices on EGD yesterday - getting rescoped with banding of
   varices today
   -Hct has been stable, hemodynamics stable.
   -More encephalopathic overnight - lactulose/rifaxamin when restarting
   po
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-11-6**] 04:50 PM
   18 Gauge - [**2181-11-6**] 05:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2181-11-08 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleeding, cirrhosis
   24 Hour Events:
 ENDOSCOPY - At [**2181-11-7**] 10:40 AM
   -EGD with banding showed 4 cords of grade II-III varices were seen in
   the lower third of the esophagus. The varices were not bleeding. 2
   bands were successfully placed. No active bleeding noted.  EGD
   otherwise normal to stomach fundus.
   - Hepatology: thinks pt had UGIB per note. Monitor pt for 2 days in ICU
   and if stable OK to go to floor ([**11-8**]).
   - bloody/melanotic stools resolved, Q6HCT and vitals stable
   - pt was difficult to get to sleep, wanting to get OOB, given trazodone
   50mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2181-11-6**] 09:17 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2181-11-7**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2181-11-7**] 08:01 PM
   Pantoprazole (Protonix) - [**2181-11-8**] 04:34 AM
   Other medications:
   Flowsheet Data as of  [**2181-11-8**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 88 (75 - 99) bpm
   BP: 133/60(79) {122/38(49) - 166/133(138)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.6 kg (admission): 71.6 kg
   Height: 65 Inch
             Total In:
                                                                  2,407 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                  2,407 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    380 mL
   Urine:
                                                                  1,830 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Gen: NAD, A&O x2, AP, lightheadedness, pain, SOB.
   Cv: RRR, no m/r/g
   Pulm: CTAB
   Abd: Distended, soft, NT, +BS
   Extr:.Cachectic, no edema.
   Labs / Radiology
   259 K/uL
   11.7 g/dL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   34.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
                             [**2181-11-3**]  11:35 AM
                             [**2181-11-4**]  06:07 AM
                             [**2181-11-6**]  07:32 PM
                             [**2181-11-7**]  01:45 AM
                             [**2181-11-7**]  09:11 AM
                             [**2181-11-7**]  03:13 PM
                             [**2181-11-7**]  09:21 PM
                            [**2181-11-8**]  04:35 AM
   WBC
   15.6
   15.4
   15.4
   12.2
   13.4
   13.9
   13.8
   Hct
   38.0
   38.3
   37.1
   37.1
   42.8
   36.5
   38.0
   34.6
   Plt
   134
   151
   226
   [**Telephone/Fax (3) 9780**]
   259
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   27
   25
   Glucose
   102
   159
   115
   102
   Other labs: PT / PTT / INR:16.0/47.4/1.4, ALT / AST:34/107, Alk Phos /
   T Bili:167/2.0, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:340 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:260 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.3 mg/dL, PO4:4.1 mg/dL
   Imaging: None new
   Microbiology: None new
   Assessment and Plan
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57 y/o F w/ polysubstance abuse, active alcoholism, EtOH  cirrhosis,
   previously with UGIB at OSH s/p EGD showing grades I & II varices and
   clot overlying peptic ulcer with BRBPR.
   .
   # BRBPR: Originally concerning for fast upper versus lower GI bleed. At
   the moment hemodynamically stable. Studies demonstrate LGIB present.
   Hct stable thus far with q4h checks. Continues with melena.
   - S/p crossmatch 6 units
   - Two peripheral IVs present
   - Central line to be placed as needed
   - Octreotride drip cont
   - [**Hospital1 **] PPI IV
   - Q6 hour HCT check cont (stable Hct thus far); next mid-afternoon
   - f/u GI and hepatology recs
   .
   # Altered Mental Status: Most likely etiology hepatic encephalopathy.
   - No clear infectious etiology
   - Hold rifaximin, lactulose given colonoscopy findings of bleed. D/w
   hepatology, as their most recent note suggests that this may have been
   an UGIB.
   - Fall precautions
   - Reorient frequently
   .
    # ETOH cirrhosis:
   -- MVI, Folate, Thiamine supplements
   -- continue spironolactone.
    .
   # Esophageal Varices:
   -- nadolol 20mg daily
   .
   # Peptic Ulcer Disease- from chronic NSAID use.
   -- continue sucralfate
   -- contiue IV PPI [**Hospital1 **]
   .
   # HTN- continue captopril, nadolol, amlodipine as long as continues to
   be hemodynamically stable.
   # FEN/GI- NPO; NS at 75cc/hour running for 2L now
 complete those 2L,
   then 500cc NS bolus over 3hours (given saw Hct [**Last Name (LF) 9768**], [**First Name3 (LF) **]
   hinting at patient being dry), GI PPX w/ PPI IV bid
   # CODE: FULL
   # PPX: heparin SC, venodynes, fall risk
   # Dispo; if AM Hct stable, consider return to [**Doctor Last Name 2572**]-[**Doctor Last Name **] (floor team)
   today
   # Communication: *** CALL [**Doctor First Name **] 1st
   -Contact: HCP, [**Name (NI) 1028**] [**Name (NI) 9695**] (cousin who is a nurse), [**Telephone/Fax (1) 9675**]
   --------------------
   NEIGHBOURS:
   [**Doctor First Name 469**] (home) [**Telephone/Fax (1) 9676**]
   (cell) [**Telephone/Fax (1) 9677**]
   [**Male First Name (un) **] (home) [**Telephone/Fax (1) 9760**]
   =======================================
   son, [**Name (NI) **] [**Name (NI) **] (HCP as [**First Name8 (NamePattern2) 24**] [**Name (NI) 469**])
   cell [**Telephone/Fax (1) 9761**]
   home [**Telephone/Fax (1) 9673**]
   daughter, [**Name (NI) **] (is sick) her husband [**Name (NI) 322**] [**Name (NI) 9762**] cell [**Telephone/Fax (1) 9763**]

2181-11-08 09:49:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS better this AM - confused overnight
   Had EGD with bands placed on non-bleeding varices yesrterday
   24 Hour Events:
 ENDOSCOPY - At [**2181-11-7**] 10:40 AM
   bands placed
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2181-11-6**] 09:17 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-11-7**] 08:01 PM
   Carafate (Sucralfate) - [**2181-11-7**] 08:01 PM
   Pantoprazole (Protonix) - [**2181-11-8**] 04:34 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-11-8**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 79 (75 - 93) bpm
   BP: 154/76(96) {122/38(49) - 166/105(112)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.6 kg (admission): 71.6 kg
   Height: 65 Inch
             Total In:
                                                                  2,407 mL
                                                                    401 mL
   PO:
             TF:
   IVF:
                                                                  2,407 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    520 mL
   Urine:
                                                                  1,830 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still mildly
   confused and conversive
   Labs / Radiology
   11.7 g/dL
   259 K/uL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   34.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
                             [**2181-11-3**]  11:35 AM
                             [**2181-11-4**]  06:07 AM
                             [**2181-11-6**]  07:32 PM
                             [**2181-11-7**]  01:45 AM
                             [**2181-11-7**]  09:11 AM
                             [**2181-11-7**]  03:13 PM
                             [**2181-11-7**]  09:21 PM
                            [**2181-11-8**]  04:35 AM
   WBC
   15.6
   15.4
   15.4
   12.2
   13.4
   13.9
   13.8
   Hct
   38.0
   38.3
   37.1
   37.1
   42.8
   36.5
   38.0
   34.6
   Plt
   134
   151
   226
   [**Telephone/Fax (3) 9780**]
   259
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   27
   25
   Glucose
   102
   159
   115
   102
   Other labs: PT / PTT / INR:16.0/47.4/1.4, ALT / AST:34/107, Alk Phos /
   T Bili:167/2.0, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:340 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:260 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57 yo woman with ETOH cirrhosis initially admitted with an upper GI
   Bleed requirement large volume pRBC resuscitation and intubation.  She
   was transferred to the medical floor on [**11-4**], now back in ICU with
   suspected lower GI bleed.
   -Hct at 34 for no longer having bloody bowel movements - doing well,
   hemodynamically stable
   -Now s/p variceal banding
   -Start lactulose/rifaxamin
   -Retart po intake
   -Cont PPI, octreotide
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-11-7**] 10:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: